US05189054
Scheme I, step f: 3-[(m-fluorophenacyl)methylamino]-2-carbmethoxy-6-chloroindole
Dissolve 3-[(m-fluorophenacyl)methylamino]-2-carbmethoxy-6-chloro-1-(tert-butyloxycarbonyl)-indole from above in methylene chloride (5 mL). Add trifluoracetic acid (5 mL) and stir for 4 hours at room temperture. Dilute with ethyl acetate (50 mL) and rinse with 1N sodium hydroxide, saturated sodium chloride, dry over magnesium sulfate, filter and concentrate in vacuo. Purify the residue by flash chromatography (30% ethyl acetate/hexane) and recrystallize from ethyl acetate/hexane to yield the title compound (700 mg, 70%).

reactant | 3-[(m-fluorophenacyl)methylamino]-2-carbmethoxy-6-chloro-1-(tert-butyloxycarbonyl)-indole | FC=1C=C(C(CCNC2=C(N(C3=CC(=CC=C23)Cl)C(=O)OC(C)(C)C)C(=O)OC)=O)C=CC1 | C24H24ClFN2O5
reactant | trifluoracetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 3-[(m-fluorophenacyl)methylamino]-2-carbmethoxy-6-chloroindole | 700 mg, 70% | FC=1C=C(C(CCNC2=C(NC3=CC(=CC=C23)Cl)C(=O)OC)=O)C=CC1 | C19H16ClFN2O3
